### PR TITLE
[Merged by Bors] - feat: more explicit sheaf condition for presieves of arrows

### PR DESCRIPTION
**Pull request by dagurtomas**
We give more explicit analogues for compatible families of elements for a `Presieve.ofArrows` and prove that if such families have unique amalgamation then the sheaf condition is satisfied. 

- [x] depends on: #7854 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 1]
```diff
@@ -700,4 +700,79 @@ theorem isSheafFor_subsieve (P : Cᵒᵖ ⥤ Type w) {S : Sieve X} {R : Presieve
...
+      intro Y f hf
+      cases' hf with i
+      rw [hy i]
+      exact (Arrows.compatible_inj P π x hx _ _ _
+        (ofArrows_surj π (π i) (ofArrows.mk _)).choose_spec.choose_spec)
+  · obtain ⟨t, hA, ht⟩ := h (fun i ↦ x (π i) (ofArrows.mk _))
+      (fun i j Z gi gj ↦ hx gi gj (ofArrows.mk _) (ofArrows.mk _))
+    refine ⟨t, fun Y f hf ↦ ?_, fun y hy ↦ ht y (fun i ↦ hy (π i) (ofArrows.mk _))⟩
+    cases' hf with i
+    exact hA i
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean:752]: In order to allow easier future development of the API, could you make this more into the following skeleton:
```suggestion
lemma FamilyOfElements.isAmalgamation_iff_ofArrows (x : FamilyOfElements P (ofArrows X π)) (t : P.obj (op B)) :
    x.IsAmalgamation t ↔ ∀ (i : I), P.map (π i).op t = x _ (ofArrows.mk i) := by
  constructor
  · intro h i
    exact h _ (ofArrows.mk i)
  · intro h Y f hf
    obtain ⟨i, rfl, hi⟩ := ofArrows_surj π f hf
    obtain rfl : f = π i := by simpa using hi
    exact h i

namespace Arrows.Compatible

variable {x : (i : I) → P.obj (op (X i))} (hx : Compatible P π x)
variable {P π}

lemma exists_familyOfElements :
    ∃ (x' : FamilyOfElements P (ofArrows X π)), ∀ (i : I), x' _ (ofArrows.mk i) = x i := by
  sorry

def familyOfElements {x : (i : I) → P.obj (op (X i))}
    (hx : Compatible P π x) : FamilyOfElements P (ofArrows X π) := by
  sorry

@[simp]
lemma familyOfElements_ofArrows_mk (i : I) :
    hx.familyOfElements _ (ofArrows.mk i) = x i := sorry

def familyOfElements_compatible {x : (i : I) → P.obj (op (X i))}
    (hx : Compatible P π x) : hx.familyOfElements.Compatible := by
  sorry

end Arrows.Compatible

theorem isSheafFor_arrows_iff : (ofArrows X π).IsSheafFor P ↔
    (∀ (x : (i : I) → P.obj (op (X i))), Arrows.Compatible P π x →
    ∃! t, ∀ i, P.map (π i).op t = x i) := by
  refine ⟨fun h x hx ↦ ?_, fun h x hx ↦ ?_⟩
  · obtain ⟨t, ht₁, ht₂⟩ := h _ hx.familyOfElements_compatible
    refine' ⟨t, fun i => _, _⟩
    · rw [ht₁ _ (ofArrows.mk i), Arrows.Compatible.familyOfElements_ofArrows_mk]
    · intro t' ht'
      apply ht₂
      rw [FamilyOfElements.isAmalgamation_iff_ofArrows]
      intro i
      simp only [ht', Arrows.Compatible.familyOfElements_ofArrows_mk]
  · obtain ⟨t, hA, ht⟩ := h (fun i ↦ x (π i) (ofArrows.mk _))
      (fun i j Z gi gj ↦ hx gi gj (ofArrows.mk _) (ofArrows.mk _))
    refine ⟨t, fun Y f hf ↦ ?_, fun y hy ↦ ht y (fun i ↦ hy (π i) (ofArrows.mk _))⟩
    cases' hf with i
    exact hA i
```
(I am not 100% sure of the namespaces: `ofArrows` is presumably better than `Arrows`.)

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 2]
```diff
@@ -700,4 +700,102 @@ theorem isSheafFor_subsieve (P : Cᵒᵖ ⥤ Type w) {S : Sieve X} {R : Presieve
...
+    (eqToHom (ofArrows_surj π (π i) (ofArrows.mk _)).choose_spec.choose.symm) ?_
+  · simp [← (ofArrows_surj π (π i) (ofArrows.mk _)).choose_spec.choose_spec]
+  rw [← hx]
+  simp
+
+/--
+A `FamilyOfElements` associated to an explicit family of elements.
+-/
+noncomputable
+def familyOfElements {x : (i : I) → P.obj (op (X i))}
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean:741]: Here and below you can you the variables you declared above.

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 3]
```diff
@@ -700,4 +700,102 @@ theorem isSheafFor_subsieve (P : Cᵒᵖ ⥤ Type w) {S : Sieve X} {R : Presieve
...
+
+@[simp]
+theorem familyOfElements_ofArrows_mk (i : I) :
+    hx.familyOfElements _ (ofArrows.mk i) = x i :=
+  (exists_familyOfElements hx).choose_spec _
+
+theorem familyOfElements_compatible {x : (i : I) → P.obj (op (X i))}
+    (hx : Compatible P π x) : hx.familyOfElements.Compatible := by
+  intro Y₁ Y₂ Z g₁ g₂ f₁ f₂ h₁ h₂ hgf
+  cases' h₁ with i
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean:753]: Can you use `case` instead of `cases'`? Not very important, but sooner or later we will get rid of `cases'`.

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 4]
```diff
@@ -700,4 +700,102 @@ theorem isSheafFor_subsieve (P : Cᵒᵖ ⥤ Type w) {S : Sieve X} {R : Presieve
...
+  simp [hx i j Z g₁ g₂ hgf]
+
+end Arrows.Compatible
+
+theorem isSheafFor_arrows_iff : (ofArrows X π).IsSheafFor P ↔
+    (∀ (x : (i : I) → P.obj (op (X i))), Arrows.Compatible P π x →
+    ∃! t, ∀ i, P.map (π i).op t = x i) := by
+  refine ⟨fun h x hx ↦ ?_, fun h x hx ↦ ?_⟩
+  · obtain ⟨t, ht₁, ht₂⟩ := h _ hx.familyOfElements_compatible
+    refine' ⟨t, fun i => _, _⟩
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean:764]: Same as above, let's use `refine`.

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 5]
```diff
@@ -700,4 +700,102 @@ theorem isSheafFor_subsieve (P : Cᵒᵖ ⥤ Type w) {S : Sieve X} {R : Presieve
...
 #align category_theory.presieve.is_sheaf_for_subsieve CategoryTheory.Presieve.isSheafFor_subsieve
 
+section Arrows
+
+variable {B : C} {I : Type*} {X : I → C} (π : (i : I) → X i ⟶ B) (P)
+
+/--
+A more explicit version of `FamilyOfElements.Compatible` for a `Presieve.ofArrows`.
+-/
+def Arrows.Compatible (x : (i : I) → P.obj (op (X i))) : Prop :=
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean:710]: Can you add a reference to this in the docstring of [CategoryTheory.Presieve.FamilyOfElements.Compatible](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Sites/IsSheafFor.html#CategoryTheory.Presieve.FamilyOfElements.Compatible)? And maybe also in the docstring at the beginning of the file.

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 6]
```diff
@@ -700,4 +700,102 @@ theorem isSheafFor_subsieve (P : Cᵒᵖ ⥤ Type w) {S : Sieve X} {R : Presieve
...
+  · obtain ⟨t, hA, ht⟩ := h (fun i ↦ x (π i) (ofArrows.mk _))
+      (fun i j Z gi gj ↦ hx gi gj (ofArrows.mk _) (ofArrows.mk _))
+    refine ⟨t, fun Y f hf ↦ ?_, fun y hy ↦ ht y (fun i ↦ hy (π i) (ofArrows.mk _))⟩
+    cases' hf with i
+    exact hA i
+
+variable [(ofArrows X π).hasPullbacks]
+
+/--
+A more explicit version of `FamilyOfElements.PullbackCompatible` for a `Presieve.ofArrows`.
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean:780]: Can you add a reference to this in the docstring of `FamilyOfElements.PullbackCompatible`?

**Review by riccardobrasca — APPROVED** [review]
A few comments and it's ready to go, thanks!

bors d+

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 7]
```diff
@@ -700,4 +706,100 @@ theorem isSheafFor_subsieve (P : Cᵒᵖ ⥤ Type w) {S : Sieve X} {R : Presieve
...
+  ∀ i j Z (gi : Z ⟶ X i) (gj : Z ⟶ X j), gi ≫ π i = gj ≫ π j →
+    P.map gi.op (x i) = P.map gj.op (x j)
+
+lemma FamilyOfElements.isAmalgamation_iff_ofArrows (x : FamilyOfElements P (ofArrows X π))
+    (t : P.obj (op B)) :
+    x.IsAmalgamation t ↔ ∀ (i : I), P.map (π i).op t = x _ (ofArrows.mk i) := by
+  refine ⟨fun h i ↦ h _ (ofArrows.mk i), fun h Y f hf ↦ ?_⟩
+  obtain ⟨i, rfl, hi⟩ := ofArrows_surj π f hf
+  obtain rfl : f = π i := by simpa using hi
+  exact h i
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean:726]: For example:
```suggestion
    x.IsAmalgamation t ↔ ∀ (i : I), P.map (π i).op t = x _ (ofArrows.mk i) := 
  ⟨fun h i ↦ h _ (ofArrows.mk i), fun h _ f ⟨i⟩ ↦ h i⟩
```

**Review by alreadydone — CHANGES_REQUESTED** [review]
Many proofs can be a lot simpler, and I don't think you need `ofArrows_surj`. You just need to know how to destruct inductive types.

File: Mathlib/CategoryTheory/Sites/IsSheafFor.lean [hunk 8]
```diff
@@ -700,4 +706,97 @@ theorem isSheafFor_subsieve (P : Cᵒᵖ ⥤ Type w) {S : Sieve X} {R : Presieve
...
+
+theorem exists_familyOfElements :
+    ∃ (x' : FamilyOfElements P (ofArrows X π)), ∀ (i : I), x' _ (ofArrows.mk i) = x i := by
+  use (fun Y f hf ↦ P.map (eqToHom (ofArrows_surj π f hf).choose_spec.choose.symm).op (x _))
+  intro i
+  specialize hx i (ofArrows_surj π (π i) (ofArrows.mk _)).choose (X i) (𝟙 _)
+    (eqToHom (ofArrows_surj π (π i) (ofArrows.mk _)).choose_spec.choose.symm) ?_
+  · simp [← (ofArrows_surj π (π i) (ofArrows.mk _)).choose_spec.choose_spec]
+  rw [← hx]
+  simp
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Sites/IsSheafFor.lean:738]: Just pushed a commit to prevent the merge. This theorem is more tricky as it requires elimination into Type* to construct a FamilyOfElements, but the proof could still be better with the `choose` tactic.

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/IsSheafFor.lean:738]: I'm going to bed, but feel free to push a change to that proof as well

**Comment by alreadydone** [comment]
Pushed more golfs; in hindsight they're not so essential, and I'm sorry to block the merge. Anyway, feel free to merge now!

**Review by alreadydone — APPROVED** [review]

**Comment by dagurtomas** [comment]
bors merge
